* C:\users\franco\Escritorio\UTN\TC2\TS\TS5\Draft_con_sallen_key.asc
XU1 N002 N004 N002 opamp Aol=100K GBW=10Meg
R1 N003 N001 1
R2 N001 N004 1
C1 N004 0 56.95µ
C2 N002 N001 108.7µ
Vi N003 0 SINE() AC 1
R Vo N002 1
C Vo 0 86µ
.inc opamp.sub
.ac dec 1000 100 50k
.backanno
.end
